US06159990
a. 4-Phenyl-4-furan-2-yl-piperidine
To a solution of 4-hydroxy-4-phenyl-piperidine(0.50 g, 2.8 mmol) in 10 ml of CH2Cl2 at 25° C. was added furan (0.40 ml, 5.6 mmol) and aluminum chloride (0.75 g, 5.6 mmol) in a portion and the resulting heterogeneous solution was stirred for 3 h. Reaction mixture was poured into cold aqueous NaHCO3 and extracted with EtOAc. Organic layer was dried over Na2SO4 and concentrated in vacuo to provide oily residue, which was purified by column chromatography (30% NH3 sat'd MeOH/EtOAc) to yield 0.48 g (76%) of the desired product as an oil.

reactant | 4-hydroxy-4-phenyl-piperidine | 2.8 mmol, 0.50 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | furan | 5.6 mmol, 0.40 ml | O1C=CC=C1 | C4H4O
reactant | aluminum chloride | 5.6 mmol, 0.75 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-Phenyl-4-furan-2-yl-piperidine | 0.48 g, 76% | C1(=CC=CC=C1)C1(CCNCC1)C=1OC=CC1 | C15H17NO
